data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1ccccc1OC)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccccc1OC)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccccc1OC)C(C)C", "products": "COc1ccccc1[Si]1(c2ccccc2)OC(C(C)C)C[CH]2[CH2][RhH]21"}, {"reactants": "COc1ccccc1[Si]1(c2ccccc2)OC(C(C)C)C[CH]2[CH2][RhH]21", "products": "COc1ccccc1[Si]1(c2ccccc2)OC(C(C)C)CC1[CH2][RhH]"}, {"reactants": "COc1ccccc1[Si]1(c2ccccc2)OC(C(C)C)CC1[CH2][RhH].[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "COc1ccccc1[Si]1(c2ccccc2)OC(C(C)C)CC1C[C](=O)[RhH]"}, {"reactants": "COc1ccccc1[Si]1(c2ccccc2)OC(C(C)C)CC1C[C](=O)[RhH]", "products": "COc1ccccc1[Si]1(c2ccccc2)OC(C(C)C)CC1CC=O.[Rh]"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "FC(O[C@@H]1[C@@H](OCc2ccccc2)CN2OC3(CC3)C[C@H]12)c1ccccc1", "products": "[O]C1(C[C@H]2[N]C[C@H](OCc3ccccc3)[C@H]2OC(F)c2ccccc2)CC1"}, {"reactants": "[O]C1(C[C@H]2[N]C[C@H](OCc3ccccc3)[C@H]2OC(F)c2ccccc2)CC1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(F)c1ccccc1"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(F)c1ccccc1", "products": "O=C1CCN2C[C@H](OC(F)c3ccccc3)[C@@H](OCc3ccccc3)[C@@H]2C1"}]}
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1c(F)cccc1F)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1c(F)cccc1F)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1c(F)cccc1F)C(C)C", "products": "CC(C)C1C[CH]2[CH2][RhH]2[Si](c2ccccc2)(c2c(F)cccc2F)O1"}, {"reactants": "CC(C)C1C[CH]2[CH2][RhH]2[Si](c2ccccc2)(c2c(F)cccc2F)O1", "products": "CC(C)C1CC([CH2][RhH])[Si](c2ccccc2)(c2c(F)cccc2F)O1"}, {"reactants": "CC(C)C1CC([CH2][RhH])[Si](c2ccccc2)(c2c(F)cccc2F)O1.[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "CC(C)C1CC(C[C](=O)[RhH])[Si](c2ccccc2)(c2c(F)cccc2F)O1"}, {"reactants": "CC(C)C1CC(C[C](=O)[RhH])[Si](c2ccccc2)(c2c(F)cccc2F)O1", "products": "CC(C)C1CC(CC=O)[Si](c2ccccc2)(c2c(F)cccc2F)O1.[Rh]"}]}
{"conditions": [{"role": "reagent", "text": "cat. Rh2(OAc)4"}], "steps": [{"reactants": "CCC1(C(=O)C(=[N+]=[N-])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)CC(C)C1OC.[Rh]", "products": "CCC1(C(=O)[C](=[Rh])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)CC(C)C1OC.N#N"}, {"reactants": "CCC1(C(=O)[C](=[Rh])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)CC(C)C1OC", "products": "CCC12C(=O)[C-](C(=O)OC)[O+]=C1N(C(=O)Cc1cn(C)c3ccccc13)CC(C)C2OC.[Rh]"}, {"reactants": "CCC12C(=O)[C-](C(=O)OC)[O+]=C1N(C(=O)Cc1cn(C)c3ccccc13)CC(C)C2OC", "products": "CCC12C(=O)C3(C(=O)OC)OC14N(CC(C)C2OC)C(=O)CC41c2ccccc2N(C)C31"}]}
{"conditions": [], "steps": [{"reactants": "CC[C@@H]1C[C@H]2CC=CC[C@H]2[C@H](NO)C1F.C=O", "products": "CC[C@@H]1C[C@H]2CC=CC[C@H]2[C@H]([NH+](O)C[O-])C1F"}, {"reactants": "CC[C@@H]1C[C@H]2CC=CC[C@H]2[C@H]([NH+](O)C[O-])C1F", "products": "CC[C@@H]1C[C@H]2CC=CC[C@H]2[C@H](N(O)CO)C1F"}, {"reactants": "CC[C@@H]1C[C@H]2CC=CC[C@H]2[C@H](N(O)CO)C1F", "products": "C=[N+](O)[C@@H]1C(F)[C@H](CC)C[C@H]2CC=CC[C@H]21.[OH-]"}, {"reactants": "C=[N+](O)[C@@H]1C(F)[C@H](CC)C[C@H]2CC=CC[C@H]21", "products": "C=[N+]([O-])[C@@H]1C(F)[C@H](CC)C[C@H]2CC=CC[C@H]21"}, {"reactants": "C=[N+]([O-])[C@@H]1C(F)[C@H](CC)C[C@H]2CC=CC[C@H]21", "products": "CC[C@@H]1C[C@H]2CC3O[N@]4CC3C[C@H]2[C@H]4C1F"}]}
{"conditions": [{"role": "reagent", "text": "NaOMe"}], "steps": [{"reactants": "COC12OC(F)C(O1)C(OS(=O)(=O)c1ccc(C)cc1)C(OS(=O)(=O)c1ccc(C)cc1)C2OS(=O)(=O)c1ccc(C)cc1.[O-]C", "products": "COC12C=C(OS(=O)(=O)c3ccc(C)cc3)C(OS(=O)(=O)c3ccc(C)cc3)C(O1)C(F)O2"}, {"reactants": "COC12C=C(OS(=O)(=O)c3ccc(C)cc3)C(OS(=O)(=O)c3ccc(C)cc3)C(O1)C(F)O2.[O-]C", "products": "COC12C=C([O-])C(OS(=O)(=O)c3ccc(C)cc3)C(O1)C(F)O2"}, {"reactants": "COC12C=C([O-])C(OS(=O)(=O)c3ccc(C)cc3)C(O1)C(F)O2", "products": "COC12OC(F)C(O1)C1C(=O)C12"}, {"reactants": "COC12OC(F)C(O1)C1C(=O)C12.[O-]C", "products": "COC12OC(F)C(O1)C1C2C1([O-])OC"}, {"reactants": "COC12OC(F)C(O1)C1C2C1([O-])OC.CO", "products": "COC(=O)C1CC2OC1(OC)OC2F"}]}
